US06403561B1
Preparation of 4,5-dimethoxyindoline-2(R/S)-carboxylic Acid Butylamide
Methyl 4,5-dimethoxyindoline-2(R/S)-carboxylate (0.447 g, 1.89 mmol) was dissolved in butylamine (35 ml), under nitrogen, and the solution was then stirred at reflux for three hours. After cooling the mixture, the remaining butylamine was removed under vacuum. The crude product was recrystallized from diethyl ether to give an off-white solid.

reactant | Methyl 4,5-dimethoxyindoline-2(R/S)-carboxylate | 1.89 mmol, 0.447 g | COC1=C2CC(NC2=CC=C1OC)C(=O)OC | C12H15NO4
solvent | butylamine | 35 ml | C(CCC)N | C4H11N
product | 4,5-dimethoxyindoline-2(R/S)-carboxylic Acid Butylamide | C(CCC)NC(=O)C1NC2=CC=C(C(=C2C1)OC)OC | C15H22N2O3
